US07671221B2
To a solution of 1-(3-amino-4-hydroxy-phenyl)-cyclopropanecarboxylic acid methyl ester (3.00 g, 14.5 mmol) in DMF were added trimethyl orthoformate (5.30 g, 14.5 mmol) and a catalytic amount of p-tolueneslufonic acid monohydrate (0.3 g) at room temperature. The mixture was stirred for 3 hours at room temperature. The mixture was diluted with water and extracted with EtOAc (100 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum to give crude 1-benzooxazol-5-yl-cyclopropanecarboxylic acid methyl ester (3.1 g), which was directly used in the next step. 1H NMR (CDCl3, 400 MHz) δ 8.09 (s, 1), 7.75 (d, J=1.2 Hz, 1H), 7.53-7.51 (m, 1H), 7.42-7.40 (m, 1H), 3.66 (s, 3H), 1.69-1.67 (m, 2H), 1.27-1.24 (m, 2H).

reactant | 1-(3-amino-4-hydroxy-phenyl)-cyclopropanecarboxylic acid methyl ester | 14.5 mmol, 3.00 g | COC(=O)C1(CC1)C1=CC(=C(C=C1)O)N | C11H13NO3
reactant | trimethyl orthoformate | 14.5 mmol, 5.30 g | C(OC)(OC)OC | C4H10O3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-benzooxazol-5-yl-cyclopropanecarboxylic acid methyl ester | 3.1 g | COC(=O)C1(CC1)C=1C=CC2=C(N=CO2)C1 | C12H11NO3
